US05140030
A solution of p-nitrobenzyl 2-azido-carbapen-2-em-3-carboxylate (27.6 mg, 83.8 micromol) in dihydropyran (1.0 ml) was kept 46 hours at 4° C. and 51 hours at ambient temperature. The reaction mixture was chromatographed on two 20 cm×20 cm 250 micron silica gel preparative thin layer chromatography plates developed with 3:1 (v/v) diethyl ether-ethyl acetate. The band centered at Rf 0.10 was eluted with ethyl acetate, and the eluate was evaporated under vacuum to provide 8.0 mg (23%) p-nitrobenzyl 2-(4-[3-hydroxypropyl]-1,2,3-triazol-1-yl)-carbapen-2-em-3-carboxylate; IR (CDCl3): 3600-3100, 1775, 710, 1610, 1520, 1345, 1290, 1215 cm-1 ; NMR (CDCl3): δ 1.78 m (2H), 2.44 t (J=7.5 Hz, 2H), 2.99 dd (J1 =3 Hz, J2 =17 Hz, 1H), 3.37 dd (J1 =8 Hz, J2 =20 Hz, 1H), 3.57 dd (J1 =5 Hz, J2 =17 Hz, 1H), 3.70 bt (J=6 Hz,2H), 3.85 dd (J1 =10 Hz, J2 =20 Hz, 1H), 4.14 m (1H), 5.31 d (J=14 Hz, 1H), 5.52 d (J=14 Hz, 1H), 7.70 d (J=9 Hz, 2H), 8.31 d (J=9 Hz, 2H), 9.84 s (1H); UV (CH2Cl2) λmax (ε): 272 (6000), 317 (8300) nm.

reactant | p-nitrobenzyl 2-azido-carbapen-2-em-3-carboxylate | 83.8 micromol, 27.6 mg | N(=[N+]=[N-])C=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2)=O | C14H11N5O5
solvent | dihydropyran | 1.0 ml | O1CCCC=C1 | C5H8O
product | p-nitrobenzyl 2-(4-[3-hydroxypropyl]-1,2,3-triazol-1-yl)-carbapen-2-em-3-carboxylate | 8.0 mg, 23% | OCCCC=1N=NN(C1)C=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2)=O | C19H19N5O6
